US08729063B2
N-(2-{[(3R)-1-benzylpyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide.
To a solution of (3-Trifluoromethyl-benzoylamino)acetic acid (4.2 g, 17 mmol) and NMM (2.8 mL, 25.5 mmol) in dry THF (30 mL) at −10 to −15° C. under N2, was slowly added isobutylchloroforinate (2.4 mL, 17.85 mmol) via syringe. The reaction mixture gradually became pink. 15 min later, a solution of (3R)-1-benzylpyrrolidin-3-amine (3.0 g, 17 mmol) in THF (15 mL) was dropwise added to the above mixed anhydride over 20 min, maintaining reaction temperature <−10° C. The reaction mixture became a dark red color. 1 h later, the reaction mixture was allowed to warm to rt, and quenched with water (25 mL), extracted with EtOAc×3, dried, filtered and concentrated to give an orange solid. MeCN was added and concentrated to remove EtOAc. Then MeCN (15-20 mL) was added to afford a slurry, which was chilled in ice bath and stirred for 30 min. After filtration, the solid product was rinsed with cold MeCN (10-15 mL) until the filtrate was colorless After dried under high vacuum overnight, a pale yellow solid product: 5.0 g (73%) was afforded. MS (M+H+)=406.2; 1H NMR (CDCl3) δ 8.16 (s, 1 H), 8.00 (dd, 1H), 7.78 (dd, 1H), 7.57 (m, 1H), 7.25 (m, 6H), 7.06 (m, 1H), 6.39 (m, 1H), 4.48 (m, 1H), 4.04 (d, 2H), 3.62 (d, 2H), 2.86 (m, 1H), 2.63 (m, 1H), 2.57 (m, 1H), 2.36 (m, 2H).

reactant | (3-Trifluoromethyl-benzoylamino)acetic acid | 17 mmol, 4.2 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | NMM | 25.5 mmol, 2.8 mL | CN1CCOCC1 | C5H11NO
reactant | (3R)-1-benzylpyrrolidin-3-amine | 17 mmol, 3.0 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | MeCN | CC#N | C2H3N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(2-{[(3R)-1-benzylpyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H22F3N3O2
